US04886620
While cooling with ice, 4.54 g of dicyclohexylcarbodiimide in 10 ml of dichloromethane are added dropwise to a mixture of 6.24 g of 4-heptyloxy-4'-biphenylcarboxylic acid, 4.46 g of 4-cyano-4-heptylcyclohexanol [obtainable from trans-4-cyanocyclohexanol by protecting the hydroxyl group as THP ether, reaction with heptyl iodide and lithium diisopropylamide and subsequent cleavage of the protective group] and 0.2 g of 4-N,N'-dimethylaminopyridine in 45 ml of dichloromethane. After 25 hours, the precipitated urea derivative is filtered off by suction, the filtrate is diluted with methylene chloride and washing was carried out several times in sequence with dilute hydrochloric acid and with water. After drying, the removal of the solvent and purification by chromatography and crystallization, 4-cyano-4-heptylcyclohexyl 4-heptyloxy-4'-biphenylcarboxylate is obtained.

reactant | dicyclohexylcarbodiimide | 4.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-heptyloxy-4'-biphenylcarboxylic acid | 6.24 g | C(CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C20H24O3
reactant | 4-cyano-4-heptylcyclohexanol | 4.46 g | C(#N)C1(CCC(CC1)O)CCCCCCC | C14H25NO
reactant | trans-4-cyanocyclohexanol | C(#N)[C@@H]1CC[C@H](CC1)O | C7H11NO
reactant | heptyl iodide | C(CCCCCC)I | C7H15I
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-cyano-4-heptylcyclohexyl 4-heptyloxy-4'-biphenylcarboxylate | C(CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1CCC(CC1)(CCCCCCC)C#N | C34H47NO3
